US07183306B2
To a solution of 5-(hydroxyl)phenyl-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole (5.0 g) and 2-bromoethoxy-tert-butyldimethylsilane (6.87 g) in DMF (100 ml) was added portionwise NaH (919 mg, 50% in oil) at room temperature. The reacion mixture was stirred overnight. The reaction mixture was quenched with water. Aqueouslayer was extracted twice with EtOAc. Combined organic layer was washed twice with water, and brine. Dried, filtered and evaporated under reduced pressure to give 5.29 g (73%) of 5-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-ethoxy)phenyl]-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1-H-pyrazole.

reactant | 5-(hydroxyl)phenyl-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole | 5.0 g | OC=1C=CC=C(C1)C1=C(C(=NN1C1=CC=C(C=C1)OC)C(F)(F)F)C | C18H15F3N2O2
reactant | 2-bromoethoxy-tert-butyldimethylsilane | 6.87 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | NaH | 919 mg | [H-].[Na+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-ethoxy)phenyl]-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1-H-pyrazole | 5.29 g, 73% | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)C1=C(C(=NN1C1=CC=C(C=C1)OC)C(F)(F)F)C | C26H33F3N2O3Si
